US04760180
N,2,6-trimethyl-0-(phenylmethyl)-DL-tyrosyl-N-(3-phenylpropyl)-D-alaninamide, monohydrochloride
O-Benzyl-N-methyl-BOC-2,6-dimethyl (DL)-tyrosyl-(D)-alanylphenylpropylamide was treated with methanol (1.5 ml) and 6.8N HCl in dioxane (1 ml) for 24 hr. The mixture was evaporated in a stream of nitrogen, and dissolved in aqueous methanol. The solution was filtered through Whatman 50 filter paper, reduced in volume in a nitrogen stream, and lyophilized. The product is

reactant | O-Benzyl-N-methyl-BOC-2,6-dimethyl (DL)-tyrosyl-(D)-alanylphenylpropylamide | C(C1=CC=CC=C1)OC1=CC(=C(CC(N(C)C(=O)OC(C)(C)C)C(=O)N[C@H](C)C(=O)[N-]CCCC2=CC=CC=C2)C(=C1)C)C
reactant | methanol | 1.5 ml | CO | CH4O
reactant | HCl | 6.8N | Cl | ClH
solvent | dioxane | 1 ml | O1CCOCC1 | C4H8O2
product | N,2,6-trimethyl-0-(phenylmethyl)-DL-tyrosyl-N-(3-phenylpropyl)-D-alaninamide, monohydrochloride | Cl.CNC(CC1C(C=C(C=C1C)O)(CC1=CC=CC=C1)C)C(=O)N[C@H](C)C(=O)NCCCC1=CC=CC=C1 | InChI=1S/C31H41N3O3.ClH/c1-22-18-26(35)21-31(3,20-25-14-9-6-10-15-25)27(22)19-28(32-4)30(37)34-23(2)29(36)33-17-11-16-24-12-7-5-8-13-24;/h5-10,12-15,18,21,23,27-28,32,35H,11,16-17,19-20H2,1-4H3,(H,33,36)(H,34,37);1H/t23-,27?,28?,31?;/m1./s1
